US04771072
2-Bromo-4,5-methylenedioxybenzaldehyde dimethylacetal, 3,4-diisopropoxybenzaldehyde and diethyl acetylenedicarboxylate are treated in the same manner as described in Example 1, whereby 1-(3,4-diisopropoxyphenyl)-2,3-bis(ethoxycarbonyl)-4-hydroxy-6,7-methylenedioxynaphthalene is obtained. Yield: 51%

reactant | 2-Bromo-4,5-methylenedioxybenzaldehyde dimethylacetal | COC(C1=C(C=C2C(=C1)OCO2)Br)OC | C10H11BrO4
reactant | 3,4-diisopropoxybenzaldehyde | C(C)(C)OC=1C=C(C=O)C=CC1OC(C)C | C13H18O3
reactant | diethyl acetylenedicarboxylate | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
product | 1-(3,4-diisopropoxyphenyl)-2,3-bis(ethoxycarbonyl)-4-hydroxy-6,7-methylenedioxynaphthalene | Yield: 51% | C(C)(C)OC=1C=C(C=CC1OC(C)C)C1=C(C(=C(C2=CC3=C(C=C12)OCO3)O)C(=O)OCC)C(=O)OCC | C29H32O9
